US08022209B2
{3′-[4-(4-Methyl-piperazin-1-yl)-pyridin-2-yl]-biphenyl-4-yl}-morpholin-4-yl-methanone
To a solution of 3′-[4-(4-methyl-piperazin-1-yl)-pyridin-2-yl]-biphenyl-4-carboxylic acid (30 mg, 0.08 mmol) in DMF (2 mL) was added morpholine (16 mg, 0.16 mmol), EDC (20 mg, 0.1 mmol), and Et3N (10 mg, 0.1 mmol). The resulting mixture was stirred at room temperature overnight, and then was poured into water and extracted with CH2Cl2. The organic layer was washed with 1 N HCl, 2 M aqueous Na2CO3, dried, and concentrated, and the resulting residue was purified by preparative TLC (MeOH/CH2Cl2) to yield the title compound as a white solid.

reactant | 3′-[4-(4-methyl-piperazin-1-yl)-pyridin-2-yl]-biphenyl-4-carboxylic acid | 0.08 mmol, 30 mg | CN1CCN(CC1)C1=CC(=NC=C1)C=1C=C(C=CC1)C1=CC=C(C=C1)C(=O)O | C23H23N3O2
reactant | morpholine | 0.16 mmol, 16 mg | N1CCOCC1 | C4H9NO
reactant | EDC | 0.1 mmol, 20 mg
reactant | Et3N | 0.1 mmol, 10 mg | CCN(CC)CC | C6H15N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | {3′-[4-(4-Methyl-piperazin-1-yl)-pyridin-2-yl]-biphenyl-4-yl}-morpholin-4-yl-methanone | CN1CCN(CC1)C1=CC(=NC=C1)C=1C=C(C=CC1)C1=CC=C(C=C1)C(=O)N1CCOCC1 | C27H30N4O2
